US08461157B2
Step 46a: 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (Compound 0602-132)
The title compound, 0602-132 was prepared (600 mg, 68%) as an oil from 3-bromophenol (700 mg, 4.0 mmol), bis(pinacolato)diboron (1.5 g, 6 mmol), potassium acetate (1.2 g, 12 mmol), and PdCl2(dppf)2 (163 mg, 0.2 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 221 [M+1]+. 1H NMR (400 MHz, CDCl3) δ 1.34 (s, 12H), 5.37 (s, 1H), 6.96 (d, J=4.0 Hz, 1H), 7.26 (m, 2H), 7.36 (d, J=7.2 Hz, 1H).

reactant | 3-bromophenol | 4.0 mmol, 700 mg | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | bis(pinacolato)diboron | 6 mmol, 1.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | 0.2 mmol, 163 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
